US07410971B2
2-{4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-ylmethyl}butyronitrile hydrochloride
To a mixture of 1-{4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-one (80 mg, 0.216 mmol) produced as an intermediate in Example 25, 1,2-dimethoxyethane (2.5 mL) and t-butanol (0.1 mL) were added p-toluenesulfonylmethyl isocyanide (TosMIC) (46.4 mg, 0.238 mmol) and potassium t-butoxide (34 mg, 0.302 mmol) at an external temperature of 0° C., followed by stirring for 90 minutes under the same conditions. The external temperature was then raised to room temperature and stirring was continued for 30 minutes. Brine was added to the reaction mixture, extraction was performed with ethyl acetate, and the obtained organic layer was dried over anhydrous sodium sulfate. After removing the desiccant by filtration, the filtrate was concentrated under reduced pressure to give a residue, which was then purified by NH silica gel column chromatography (ethyl acetate/heptane) to give 66 mg of the free form of the title compound as a colorless oil. This compound (66 mg, 0.173 mmol) was dissolved in dichloromethane-ethyl acetate, and then a 4N solution of hydrogen chloride in ethyl acetate (0.046 mL, 0.18 mmol) was added. The mixed solution was concentrated under reduced pressure, and the resulting solid residue was washed with a diethyl ether-heptane mixed solvent and then dried under reduced pressure to give 65 mg of the title compound as a colorless solid.

reactant | 1-{4-[2-(3,3,5,5-tetramethylcyclohexyl)phenyl]piperazin-1-yl}butan-2-one | 0.216 mmol, 80 mg | CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CC(CC)=O)C | C24H38N2O
reactant | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
reactant | p-toluenesulfonylmethyl isocyanide | 0.238 mmol, 46.4 mg | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium t-butoxide | 0.302 mmol, 34 mg | CC(C)([O-])C.[K+]
reactant | Brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | t-butanol | 0.1 mL | C(C)(C)(C)O | C4H10O
product | 2-{4-[2-(3,3,5,5-Tetramethylcyclohexyl)phenyl]piperazin-1-ylmethyl}butyronitrile hydrochloride | Cl.CC1(CC(CC(C1)(C)C)C1=C(C=CC=C1)N1CCN(CC1)CC(C#N)CC)C | InChI=1S/C25H39N3.ClH/c1-6-20(17-26)18-27-11-13-28(14-12-27)23-10-8-7-9-22(23)21-15-24(2,3)19-25(4,5)16-21;/h7-10,20-21H,6,11-16,18-19H2,1-5H3;1H
